US09029392B2
8-Chloro-2-(pyridin-3-yl)quinoline-3-carbaldehyde
A mixture of 2,8-dichloroquinoline-3-carbaldehyde (5.0 g, 22.2 mmol), Na2CO3 (3.51 g, 33.2 mmol) and 3-pyridylboronic acid (2.72 g, 22.2 mmol) in DME (60 mL) and water (30 mL) was degassed by bubbling N2 through it for 5 minutes. Pd(PPh3)4 (1.28 g, 1.11 mmol) was added and the mixture heated at 90° C. for 7 h. The mixture was allowed to cool to room temperature. The resultant precipitate was filtered off and washed with water (5×50 mL) and diethyl ether (5×50 mL) to give the title compound (5.4 g, 91%) as a tan solid. δH (DMSO-d6) 10.15 (s, 1H), 9.15 (s, 1H), 8.94 (dd, J 2.3, 0.8 Hz, 1H), 8.77 (dd, J 4.9, 1.7 Hz, 1H), 8.31 (dd, J 8.3, 1.3 Hz, 1H), 8.20-8.19 (m, 1H), 8.18-8.16 (m, 1H), 7.75 (dd, J 7.9, 7.5 Hz, 1H), 7.62 (ddd, J 7.7, 4.9, 0.8 Hz, 1H). LCMS (ES+) 269 (M+H)+, RT 1.82 minutes.

reactant | 2,8-dichloroquinoline-3-carbaldehyde | 22.2 mmol, 5.0 g | ClC1=NC2=C(C=CC=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | Na2CO3 | 33.2 mmol, 3.51 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-pyridylboronic acid | 22.2 mmol, 2.72 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | DME | 60 mL | COCCOC | C4H10O2
solvent | water | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.11 mmol, 1.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Chloro-2-(pyridin-3-yl)quinoline-3-carbaldehyde | 5.4 g, 91% | ClC=1C=CC=C2C=C(C(=NC12)C=1C=NC=CC1)C=O | C15H9ClN2O
